US06222062B1
Malonic acid didec-9-enyl ester
To a mixture of 150 g dimethyl malonate and 464 g dec-9-en-1-ol, 30 g sodium methoxide (5.4 M in methanol) was dropped in. The mixture was heated to 120° C. to and the methanol formed was distilled off. After 6 hours, the mixture was cooled down, diluted with ether and washed with HCl 2N, saturated sodium bicarbonate and water. The organic phase was dried, filtered and evaporated to dryness. The resulting yellow oil was purified by distillation to yield 258 g of a yellow oil.

reactant | dimethyl malonate | 150 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | dec-9-en-1-ol | 464 g | C(CCCCCCCC=C)O | C10H20O
reactant | sodium methoxide | 5.4 M, 30 g | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | Malonic acid didec-9-enyl ester | 258 g | C(CCCCCCCC=C)OC(CC(=O)OCCCCCCCCC=C)=O | C23H40O4
